US08383637B2
2-(Dimethoxymethyl)-1-nitro-4-phenoxy-benzene
A mixture of 4-chloro-2-dimethoxymethyl-1-nitrobenzene (11.55 g, 0.0500 mol), phenol (4.70 g, 0.0500 mol), and potassium carbonate (8.16 g, 0.0600 mol) in DMA (100 mL) was stirred at 150° C. for 6 h. After cooling, the reaction mixture was poured into water and treated with diisopropyl ether. The organic layer was separated, washed with 10% aqueous KOH solution, dried (MgSO4), filtered, and concentrated. The resulting residue was purified by column chromatography on silica gel using as eluent CH2Cl2:petroleum ether (40:60, 60:40, 100:0 gradient). The product containing fractions were combined and evaporated to yield a residue which was dissolved in CH2Cl2 and washed with 10% aqueous KOH solution to remove the remaining phenol. Drying and evaporation yielded a residue.

reactant | 4-chloro-2-dimethoxymethyl-1-nitrobenzene | 0.0500 mol, 11.55 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C9H10ClNO4
reactant | phenol | 0.0500 mol, 4.70 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.0600 mol, 8.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-(Dimethoxymethyl)-1-nitro-4-phenoxy-benzene | COC(C1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])OC | C15H15NO5
